US05151113
Preparation of Methyl 2-Phenoxy-2-((4,6-dimethylpyrimidin-2-yl)oxy)acetate
Alternately, the tetrabutylammonium salt of 4,6-dimethyl-2-pyrimidinol was first prepared by placing 4,6-dimethyl-2-hydroxypyrimidine (13.0 g, 0.105 mol) in a flask, adding 65 g of 40 percent aqueous tetrabutylammonium hydroxide (0.10 mol), and removing the water by evaporation under reduced pressure at pressures down to about 10 mm Hg (1.33 kPa) at 40°-45° C. The residue amounted to 42.7 g and appeared to be a dihydrate of the desired salt. A 10.9 g portion of this (25 mmol) was placed in a 500 mL flask containing 25 mL of tetrahydrofuran. A cloudy solution formed. To this was added with stirring at ambient temperature 14 mL of a solution of methyl 2-bromo-2-phenoxyacetate in tetrahydrofuran (containing about 25 mmol). The resulting mixture was allowed to stir for 2 days. Analysis by gas-liquid chromatography indicated only one significant compound was present. A 250 mL portion of diethyl ether was added and the resulting mixture was extracted 5 times with 100 mL portions of water and then with brine. The ethereal solution was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain the title compound in crude form as a dark borwn oil. This was filtration chromatographed on silica gel eluting first with a 10:90 mixture of diethyl ether and hexane and then with a 15:85 mixture of ethyl acetate and hexane. The product containing eluate was concentrated by evaporation under reduced pressure to obtain 2.50 g (35 percent of theory) of the title compound as a pale yellow oil. This oil solidified on standing to a light orange solid melting at 50°-53° C.

reactant | 4,6-dimethyl-2-pyrimidinol | CC1=NC(=NC(=C1)C)O | C6H8N2O
reactant | 4,6-dimethyl-2-hydroxypyrimidine | 0.105 mol, 13.0 g | CC1=NC(=NC(=C1)C)O | C6H8N2O
reactant | tetrabutylammonium hydroxide | 0.10 mol, 65 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | methyl 2-bromo-2-phenoxyacetate | BrC(C(=O)OC)OC1=CC=CC=C1 | C9H9BrO3
reactant | tetrahydrofuran | about 25 mmol | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 2-Phenoxy-2-((4,6-dimethylpyrimidin-2-yl)oxy)acetate | O(C1=CC=CC=C1)C(C(=O)OC)OC1=NC(=CC(=N1)C)C | C15H16N2O4
